********************************************************************************
**	Cree SiC Schottky Diode C5D Family Spice Model Library
**      v1.0_Beta
**	1/2/2015
********************************************************************************
**	Terms:
**	
**	By using this SPICE Model (a "Model") from Cree, Inc. ("Cree"), you on 
**	behalf of your organization (or you personally, if you are requesting the 
**	model for personal use) agree to the following conditions of its use:
**	
**	1. The Model, or any portion of the Model, is for your own use and may not 
**	be distributed outside your organization (or to any other person or company,
**	if you are acquiring the Model for personal use);
**	
**	2. You may use the Model only for the purpose of evaluating the performance 
**	of Cree products in proposed circuits;
**	
**	3. The Model is provided “AS IS”, and Cree disclaims any warranty either 
**	express or implied in connection with the Model, including but not limited 
**	to any warranty
**	
**	4. In no event, will Cree be liable for any damages arising from the use 
**	of the Model, regardless of the legal theory or any prior knowledge of Cree;
**	
**	5. Cree retains all copyrights and other intellectual property rights in 
**	the Model. 
**	
********************************************************************************
********************************************************************************
**	Notes:
**	1.  The model is designed to be accurate over the ranges presented in the
**	    corresponding datasheet typical characteristic curves.
**	2.  The model is valid over the 25C to 175C temperature range.
**	3.  Reverse leakage currents are modeled as a breakdown voltage at 250uA.
**	    No low current detail is provided.
**	4.  The surge response of the PiN structure is not included in this 
**          version.
**	5.  Recombination current is assumed to be zero.
**	6.  Currently, the model is electrical only. No thermal model is included.
**	7.  LT Spice users: please note that a LTSpice symbol library is also 
**	    available. Please refer to the file "Cree_C5D_CPW5_LTSPICE_Symbols.zip" 
**	    for further details.
**
********************************************************************************

********************************************************************************
**	Discrete Diodes
********************************************************************************
********************************************************************************
**	TO-220-2 package
********************************************************************************

.subckt CVFD20065A A K Case
L_anode		A	AD	6.5n
D1		AD	Case	CVFD_20A_baredie
L_cathode	K	Case	6.5n		
.ends


********************************************************************************
**	TO-247-3 package
********************************************************************************

.subckt C5D50065D NC A K Case
L_noConnect	NC	NC1	6.5n
R_noConnect	NC1	Case	1T
L_anode		A	AD1	6.5n
D1		AD1	Case	CPW50650Z050B
L_cathode	K	Case	6.5n	
.ends

********************************************************************************

********************************************************************************
********************************************************************************


********************************************************************************
**	Die Models
********************************************************************************



.model CVFD_20A_baredie
+	d(		
+	level	=	1
+	Is	=	1.85483E-15
+	N	=	1.057893162
+	Eg	=	1.191587945
+	xti	=	4.027364463
+	Rs	=	0.018374535
+	trs1	=	0.004487375
+	trs2	=	2.66447E-05
+	Cjo	=	1.16344E-09
+	VJ	=	1.645410801
+	M	=	0.48313266
+	bv	=	765.7260069
+	tbv1	=	-0.000208329
+	tbv2	=	-5.87417E-07
+	tt	=	0
+	)		
		
	
	
.model CPW50650Z050B
+	d(		
+	level	=	1
+	Is	=	1.25205E-14
+	N	=	1.084244137
+	Eg	=	1.148958004
+	xti	=	4.02603191
+	Rs	=	0.01038416
+	trs1	=	0.004933188
+	trs2	=	7.31253E-06
+	Cjo	=	2.01161E-09
+	VJ	=	1.583695739
+	M	=	0.474102613
+	bv	=	740.9507915
+	tbv1	=	-0.000269238
+	tbv2	=	-3.69022E-07
+	tt	=	0
+	)
       



